US07939533B2
b) (1R,2R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-6-(2-hydroxy-cyclopentylamino)-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 0.15 g (0.22 mmol) (1R,2R)—N-[6-(2-benzyloxy-cyclopentylamino)-4-(2-chloro-phenyl)-pyridin-3-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide in 2 ml dichloromethane were added 0.87 ml (0.87 mmol) of a 1 M boron trichloride solution in dichloromethane at room temperature. After 2 h the reaction was quenched by addition of 2 ml of a 1 M aqueous hydrochloric acid solution. Neutralisation with 1 M aqueous NaOH solution was followed by extraction with 3 portions of tert-butyl methyl ether. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 60 mg (46%) of the title compound as an off-white solid.

reactant | (1R,2R)—N-[6-(2-benzyloxy-cyclopentylamino)-4-(2-chloro-phenyl)-pyridin-3-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 0.22 mmol, 0.15 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](CCC1)NC1=CC(=C(C=N1)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)C1=C(C=CC=C1)Cl | C36H34ClF6N3O2
reactant | boron trichloride | 1 M | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (1R,2R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-6-(2-hydroxy-cyclopentylamino)-pyridin-3-yl]-N-methyl-isobutyramide | 60 mg, 46% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)Cl)N[C@H]1[C@@H](CCC1)O)(C)C)(F)F | C29H28ClF6N3O2
